US04263317
4-Amino-3'-cyclohexylspiro[cyclohexane-1,1'(3'H)-isobenzofuran]hydrochloride
A mixture of 1.50 of 4-methoxyimino-3'-phenylspiro[cyclohexane-1,1'(3'H)-isobenzofuran]hydrochloride, 150 ml of acetic acid and 0.5 g of platinujm oxide is hydrogen at 50 psi and room temperature for 41/2 hours. After filtration and removing the solvent, the oily product is dissolved in 100 ml of dichloromethane and washed with 5% sodium hydroxide solution and water. After drying over anhydrous sodium sulfate, the solvent is removed in vacuo to give an oil. The oil is dissolved in 10 ml of methaol and the solution is made acidic using hydrogen chloride/ether. After addition of 50 ml of ether, the preceipitate is suction filtered, washed with ether and dried to give 66.0% of product, mp 220°-224° C.

reactant | 4-methoxyimino-3'-phenylspiro[cyclohexane-1,1'(3'H)-isobenzofuran]hydrochloride | Cl.CON=C1CCC2(OC(C3=CC=CC=C23)C2=CC=CC=C2)CC1
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
reactant | hydrogen chloride ether | Cl.CCOCC
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-Amino-3'-cyclohexylspiro[cyclohexane-1,1'(3'H)-isobenzofuran]hydrochloride | 66.0% | Cl.NC1CCC2(OC(C3=CC=CC=C23)C2CCCCC2)CC1 | InChI=1S/C19H27NO.ClH/c20-15-10-12-19(13-11-15)17-9-5-4-8-16(17)18(21-19)14-6-2-1-3-7-14;/h4-5,8-9,14-15,18H,1-3,6-7,10-13,20H2;1H
